US06908916B2
A. Preparation of {4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-yl}-methanol
A mixture of crude 5-bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine (3.69 gm, 0.015 moles and NaHCO3 (2.51 gm, 2 equiv) in a mixture of acetonitrile (50 mL) and water (5 mL) was stirred under a N2 atmosphere for 3 days. This was treated with Na2SO4 and then with 1-(3-flurobenzyl)-1H-indazol-5-ylamine (3.24 gm, 0.90 equiv) and NaHCO3 (1 gm) and left stirring for 18 hr at RT. The reaction was filtered and the filter cake was washed with DCM (100 mL). The filtrate was concentrated and silica gel chromatography (elution with 30% EtOAc in hexane) of the residue gave the title compound as a tan solid (3.78 gm, 65% yield): 1H NMR (CDCl3) δ 3.03 (t, J=5.9 Hz, 1H), 4.98 (d, J=5.7 Hz, 2H), 5.55 (s, 2H), 6.76 (d, J=2.7 Hz, 1H), 6.83 (d, J=9.0 Hz, 1H), 6.98-6.90 (m, 3H), 7.43 (d, J=2.5 Hz, 1H), 7.51 (dd, J=2.1, 8.8 Hz, 1H), 7.96 (s, 1H), 8.03 (s, 1H), 8.22 (s, 1H), 9.91 (s, 1H); MS: (M+H+); HPLC Ret Time: 2.38 min (YMC C18 S5, 3.0×50 mm, 4 min gradient, 4 mL/min.

reactant | 5-bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine | BrCC=1C=CN2N=CN=C(C21)Cl | C7H5BrClN3
reactant | NaHCO3 | 2.51 gm, 2 equiv | C(=O)(O)[O-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 1-(3-flurobenzyl)-1H-indazol-5-ylamine | 3.24 gm, 0.90 equiv | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C14H12FN3
reactant | NaHCO3 | 1 gm | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | {4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-yl}-methanol | 3.78 gm, 65% yield | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CO)C=CC1 | C21H17FN6O
